US04482723
4-Acetyl-2-n-hexylimidazole
Repeating the above procedure with 0.20 mole of heptanamidine, 0.15 mole 2-chloro-1,1-dimethoxy-3-butanone, 0.35 mole sodium acetate in 400 ml dioxane by refluxing for six hours, allowing to stand overnight at room temperature and work-up as above, affords a 42% yield of pure product, M.P. 104°-106° C. and 26% of impure product. For the pure sample: 1H-NMR (CDCl3) ppm (delta): 0.85 (t, 3H), 1.28 (m, 7H), 1.75 (m, 2H), 2.52 (s, 3H), 2.83 (t, 2H), 7.72 (s, 1H).

reactant | heptanamidine | 0.20 mole | C(CCCCCC)(=N)N | C7H16N2
reactant | 2-chloro-1,1-dimethoxy-3-butanone | 0.15 mole | ClC(C(OC)OC)C(C)=O | C6H11ClO3
reactant | sodium acetate | 0.35 mole | C(C)(=O)[O-].[Na+]
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 4-Acetyl-2-n-hexylimidazole | 42% yield | C(C)(=O)C=1N=C(NC1)CCCCCC | C11H18N2O
